US04849422
Operation was carried out in a manner similar to the one previously described in Example 5, using 10.4 g of 1-(2-hydroxyethyl)piperazine and 6.3 g of 2-chloronicotinic acid in 100 ml dioxane under reflux for 18 hours. Grams 3.9 of 2-[4-(2-hydroxyethyl)piperazin-1-yl]nicotinic acid, melting at 148°-171° C. (with decomposition), were obtained.

reactant | 1-(2-hydroxyethyl)piperazine | 10.4 g | OCCN1CCNCC1 | C6H14N2O
reactant | 2-chloronicotinic acid | 6.3 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 2-[4-(2-hydroxyethyl)piperazin-1-yl]nicotinic acid | OCCN1CCN(CC1)C1=C(C(=O)O)C=CC=N1 | C12H17N3O3
